US06734292B1
Sodium acetate (3.9 g, 48.5 mmol) and iodine (2.5 g, 9.7 mmol) were added in this order to methanol (52.0 mL)-water (13.0 mL) solution of EM701 (6.9 g, 9.7 mmol) at room temperature, and stirred at 50° C. for 3 hours. During the stirring, 1N aqueous solution of sodium hydroxide was added to maintain at pH 8-9 continuously. After confirming the completion of the reaction by TLC, the reaction mixture was diluted with aqueous ammonia (7.5 mL)-water (200 mL), and extracted with dichloromethane. After dehydrating the organic layer with sodium sulfate, the sodium sulfate was removed by filtration and distilled off the solvent to obtain crude substance. The crude substance was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia=10:0.5:0.01→10:1:0.05) to obtain EM703 (4.8 g, Yield: 70%, white powder). EM703: m. p.: 177-180° C.

reactant | Sodium acetate | 48.5 mmol, 3.9 g | C(C)(=O)[O-].[Na+]
reactant | iodine | 9.7 mmol, 2.5 g | II | I2
reactant | EM701 | 9.7 mmol, 6.9 g | CC[C@H]([C@](C)([C@H]1[C@H](C2=C(C[C@@](O2)([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)OC)C)O[C@H]4[C@@H]([C@H](C[C@H](O4)C)N(C)C)O)C)C)C)O)O | C37H65NO12
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ammonia | 7.5 mL | N | H3N
solvent | water | 200 mL | O | H2O
solvent | water | 13.0 mL | O | H2O
solvent | methanol | 52.0 mL | CO | CH4O
product | EM703 | 4.8 g, Yield: 70% | CC[C@H]([C@](C)([C@@H]1[C@H](C2=C(C[C@@](O2)([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)OC)C)O[C@H]4[C@@H]([C@H](C[C@H](O4)C)NC)O)C)C)C)O)O | C36H63NO12
